9
R0102 1 2 1.9
R0304 3 4 1.9
L0300 3 0 1
C0205 2 5 0.31
C0106 1 6 1
C0700 7 0 1
C0408 4 8 0.31
C0309 3 9 1
N0200 2 0 -2 1.1 -1 0.7 1 -0.7 2 -1.1
N0400 4 0 -2 1.1 -1 0.7 1 -0.7 2 -1.1
G0001 0 1 7 0 1
G0700 7 0 1 0 1
V0500 5 0 PULSE 0 0.1 0 0 0 10000 20000 1
V0600 6 0 PULSE 0 0.1 0 0 0 10000 20000 1
V0800 8 0 PULSE 0 0.1 0 0 0 10000 20000 1
V0900 9 0 PULSE 0 0.1 0 0 0 10000 20000 1
.TRAN 1000 100E-3 TRAP 1
