3
L0100 1 0 0.1
C0200 2 0 0.1
N0300 3 0 -2 0 -1 1 1 -1 2 0
N0200 2 0 -2 0 -1 1 1 -1 2 0
N0100 1 0 -2 0 -1 1 1 -1 2 0
I0003 0 3 SIN 0 2 1 0 0 0 1000
I0002 0 2 SIN 0 2 1 0 0 0 1000
I0001 0 1 SIN 0 2 1 0 0 0 1000
.TRAN 3 3E-3 TRAP 1
