1
R0102 2 0 1
L0010 1 2 1
V0200 1 0 DC 1
.TRAN 15 0.001 TRAP 1
*
*     e1              e2
*     |-----LLLLL-----|
*     |               |
*    電              RRR
*    圧              RRR
*    源              RRR
*     |               |
*    GND             GND
*
*
