Comentario
R00 2 0 1
V00 1 0 DC 10
K00 1 0 2 0 10
.TRAN 15 0.001 TRAP 1
*
*             e1                  e2
*     |---------------|  1:10 |--------|
*     |               |       |        |
*    電              変   ::  変       RR
*    圧              圧   ::  圧       RR
*    源              器   ::  器       RR
*     |               |       |        |
*    GND             GND     GND     GND
*
