6
R0102 1 2 1000
R0103 1 3 100000
R0104 1 4 100000
R0105 1 5 1000
CX 6 2 1E-6
C0504 5 4 1E-6
N0400 4 0 -1000 0 0 0 0.6 0 2 20
N0300 3 0 -1000 0 0 0 0.6 0 2 20
$0200 2 0 4 0 1 0 0.3
$0500 5 0 3 0 1 0 0.3
V0100 1 0 DC 12
V0603 6 3 PULSE 0 1 0.05 0 0 1000 2000 1
.TRAN 0.5 0.1E-3 TRAP 1
