5
R0100 1 0 1
R0203 2 3 1
L0402 4 2 5.86082142617873E-1
L0104 1 4 8.81627694904598E-1
C0205 2 5 1.41517470742647
C0400 4 0 2.13067465696923
C0100 1 0 1.84421824323888
C0402 4 2 1.08537480612191
C0104 1 4 3.64397675632798E-1
VIC 5 0 PULSE 0 0.1 1 0 0 1 1000 1
V0300 3 0 PULSE 0 1 0 0 0 50 100 5
.TRAN 15 10000E-5 TRAP 1
