8
R0100 1 0 50
C0100 1 0 1000E-6
C0200 2 0 1000E-6
C0300 3 0 1000E-6
N0401 4 1 -1000 0 0 0 0.6 1e-3 2 10
N0205 2 5 -1000 0 0 0 0.6 1e-3 2 10
N0503 5 3 -1000 0 0 0 0.6 1e-3 2 10
K0600 6 0 4 0 2.99212598425197E-2
K0700 7 0 5 4 8.74015748031496E-2
I0002 0 2 DC 200E-3
I0300 3 0 DC 200E-3
V2 8 6 DC 0
V0800 8 0 SIN 0 180 60 0 0 0 200
V1 8 7 DC 0
.TRAN 8.33333333333333E-1 8.33333333333333E-5 TRAP 1
