10
C0100 1 0 1E-9
C0203 2 3 1E-9
C0304 3 4 5E-9
C0506 5 6 5E-9
E0700 7 0 5 0 -1
$0203 2 3 8 0 5E-4 0 2.5
$0902 9 2 10 0 5E-4 0 2.5
$0107 1 7 8 0 5E-4 0 2.5
$0401 4 1 10 0 5E-4 0 2.5
O0300 3 0 4 0
O0500 5 0 9 0
V0800 8 0 PULSE 0 5 0 0.01E-3 0.01E-3 0.03E-3 0.1E-3 10000
V1000 10 0 PULSE 0 5 0.05E-3 0.01E-3 0.01E-3 0.03E-3 0.1E-3 10000
V0609 6 9 PULSE 0 1 1E-3 0 0 1000 2000 1
.TRAN 10E-3 5E-6 TRAP 1
