Circuito Louco para testar Capacitor e Indutor no tempo
R3 1 2 1
C3 1 0 2
R1 2 3 1
C2 2 0 1
L1 2 3 2
L3 2 0 5E-1
R2 2 4 1
C1 4 3 3
L2 3 5 1
C4 5 6 3
R4 6 0 1
V1 4 0 SIN 0 10 1 0 0 0 1000
E1 3 2 2 0 2
.TRAN 10 1E-5 TRAP 1
