Circuito dobrador de tensao usando chaves como diodos:
C0 1 2 1E-6
NDIODO0 0 2 -1 0 0.3 0 0.7 0.5 1 10
NDIODO0 2 3 -1 0 0.3 0 0.7 0.5 1 10
C1 3 0 1E-6
RL 3 0 1E3
V0200 1 0 SIN 0 1 1000 0 0 0 100
.TRAN 0.01 1E-6 TRAP 1
*      1            2         3
*     |------| |-------$$$$----
*     |             |         |
*     V             $        ---
*    SIN            $        ---
*     |             |         |
*    GND           GND       GND
*     0             0         0
