Circuito dobrador de tensao usando chaves como diodos:
C0 1 2 1E-6
$0 2 0 0 2 1E9 1E-9 0
$1 2 3 2 3 1E9 1E-9 0
C1 3 0 1E-6
RL 3 0 1E3
V0200 1 0 SIN 0 1 1000 0 0 0 100
.TRAN 0.01 1E-6 TRAP 1
*      1            2         3
*     |------| |-------$$$$----
*     |             |         |
*     V             $        ---
*    SIN            $        ---
*     |             |         |
*    GND           GND       GND
*     0             0         0
